US08084448B2
B. 2-Benzyloxy-4,5-difluoronitrobenzene
To a vigorously stirred mixture of 4,5-difluoro-2-nitrophenol (1 g, 5.71 mmol) and anhydrous potassium carbonate (1.9 g, 14.28 mmol) in acetone (20 mL). is added benzyl bromide (750 μl, 6.28 mmol) and the dark heterogeneous mixture is heated to reflux for 10 h; or until all starting material had been consumed according to LC/MS analysis. The dark mixture is then filtered, dried over magnesium sulfate, and filtered again to afford, after solvent removal, a light brown crystalline solid that was used in the next step without further purification.

reactant | 4,5-difluoro-2-nitrophenol | 5.71 mmol, 1 g | FC1=CC(=C(C=C1F)O)[N+](=O)[O-] | C6H3F2NO3
reactant | potassium carbonate | 14.28 mmol, 1.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 6.28 mmol, 750 μl | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 2-Benzyloxy-4,5-difluoronitrobenzene | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)F)F)[N+](=O)[O-] | C13H9F2NO3
